US07135047B2
1.2.1 N-3-(morpholin4-yl)propyl-3-nitroaniline
28.2 g 3-fluoronitrobenzene and 158.4 g 4-(3-aminopropyl)morpholine were dissolved in 300 ml dimethyl sulfoxide, and the batch was stirred for 60 h at 100° C. After cooling, the batch was poured into 1 l water. The mixture was extracted several times with methyl tert-butyl ether, and the combined organic phases were reduced to dryness on a rotary evaporator. The product obtained was an orange-brown oil.

reactant | 3-fluoronitrobenzene | 28.2 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-(3-aminopropyl)morpholine | 158.4 g | NCCCN1CCOCC1 | C7H16N2O
reactant | water | 1 l | O | H2O
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | N-3-(morpholin4-yl)propyl-3-nitroaniline | N1(CCOCC1)CCCNC1=CC(=CC=C1)[N+](=O)[O-] | C13H19N3O3
